US04079181
To a dry ice acetone cooled solution of diphenylmethyl α-[3-phenoxymethyl-7-oxo-2,6-diaza-4-thiabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-chloro-2-propen-2-yl)acetate (160 mg) in a mixture of methylene chloride (3.2 ml) and methanol (0.3 ml) is introduced ozone until the reaction mixture shows blue color. Then excess ozone is purged with oxygen, mixed with an aqueous solution of 95% sodium hydrogen sulfite (100 mg), warmed to room temperature to decompose the ozonide. After 1.5 hours, the solution is washed with 5% sodium hydrogen carbonate and water, dried, and concentrated to remove methylene chloride. The resultant oil (132 mg) is purified over thin-layer chromatographic plate (Merck 60F-254) using a mixture of benzene and ethyl acetate (1:1) as developing solvent to give diphenylmethyl α-[3-phenoxymethyl-7-oxo-2,6-diaza-4-thiabicyclo[3,2,0]-hept-2-en-6-yl]-α-(2-chloro-1-hydroxyethylidene)acetate (44 mg) as glass.

reactant | diphenylmethyl α-[3-phenoxymethyl-7-oxo-2,6-diaza-4-thiabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-chloro-2-propen-2-yl)acetate | 160 mg | O(C1=CC=CC=C1)CC1=NC2C(N(C2S1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(CCl)=C)=O | C29H25ClN2O4S
reactant | ozone | O=[O+][O-] | O3
solvent | methylene chloride | 3.2 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 0.3 ml | CO | CH4O
product | diphenylmethyl α-[3-phenoxymethyl-7-oxo-2,6-diaza-4-thiabicyclo[3,2,0]-hept-2-en-6-yl]-α-(2-chloro-1-hydroxyethylidene)acetate | 44 mg | O(C1=CC=CC=C1)CC1=NC2C(N(C2S1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C(CCl)O)=O | C28H23ClN2O5S
